US07700641B2
Synthesis of 4′-methoxy-1′{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 1, and making non-critical variations using 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-4-methoxy-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (33%) as a white solid: mp 149-153° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.32-7.24 (m, 1H), 6.82-6.62 (m, 3H), 6.46 (s, 1H), 6.40 (d, 1H), 6.08 (s, 1H), 5.87 (ABq, 2H), 4.92 (ABq, 2H), 4.82 (ABq, 2H), 3.70 (s, 3H); MS (ES+) m/z 460.3 (M+1).

reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-4-methoxy-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC(=C12)OC)CC=1OC(=CC1)C(F)(F)F)=O)CO | C23H18F3NO7
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 4′-methoxy-1′{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | COC1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)COC=1C3=CC3=C(OCO3)C1 | C23H16F3NO6
